US08835472B2
N-(4-((4-Ethoxyphenyl)ethynyl)phenethyl)propionamide
150 mg (1.03 mmol) 1-ethoxy-4-ethynylbenzene, 327 mg (1.08 mmol) N-(4-iodophen-ethyl)propionamide (I47.2) and 36 mg (0.05 mmol) bis(triphenylphosphine)dichloro-palladium in 2.0 mL water and 1.5 mL sec-butylamine are stirred at r.t. over night and for additional 4 h at 30° C. The reaction mixture is partitioned between DCM and water. The solvent of the organic layer is evaporated in vacuo and the residue is purified by HPLC (MeOH/H2O/NH3).

reactant | 1-ethoxy-4-ethynylbenzene | 1.03 mmol, 150 mg | C(C)OC1=CC=C(C=C1)C#C | C10H10O
reactant | N-(4-iodophen-ethyl)propionamide | 1.08 mmol, 327 mg | IC1=CC=C(CCNC(CC)=O)C=C1 | C11H14INO
solvent | water | 2.0 mL | O | H2O
solvent | sec-butylamine | 1.5 mL | C(C)(CC)N | C4H11N
catalyst | bis(triphenylphosphine)dichloro-palladium | 0.05 mmol, 36 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-((4-Ethoxyphenyl)ethynyl)phenethyl)propionamide | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(CCNC(CC)=O)C=C1 | C21H23NO2
